US06248739B1
To a flask containing crude diethyl 2-({4-[[2-(acetyloxy)ethyl](ethyl)amino]-anilino}methylene)malonate (2.2 g) is added diphenyl ether (15 mL). The reaction mixture is heated from room temperature to 260° C. over 45 minutes under a flow of argon gas. After 1 hour at 260° C. the hot reaction is slowly and carefully added to stirred diethyl ether (150 mL). The resulting precipitate is filtered and washed repeatedly with heptane. The residue is adsorbed onto silica and chromatographed on silica eluting with 3% to 10% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.68 g of ethyl 6-[[2-(acetyloxy)ethyl](ethyl)amino]-4-hydroxy-3-quinolinecarboxylate as a brown solid.

reactant | diethyl 2-({4-[[2-(acetyloxy)ethyl](ethyl)amino]-anilino}methylene)malonate | 2.2 g | C(C)(=O)OCCN(C1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1)CC | C20H28N2O6
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | ethyl 6-[[2-(acetyloxy)ethyl](ethyl)amino]-4-hydroxy-3-quinolinecarboxylate | 0.68 g | C(C)(=O)OCCN(C=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O)CC | C18H22N2O5
